### PR TITLE
some lemmas for disjoint

### PR DESCRIPTION
**Pull request by chdoc**
##### Motivation for this change

Some more lemmas to facilitate reasoning about `[disjoint _ & _]`. 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/fintype.v [hunk 1]
```diff
@@ -848,10 +848,25 @@ Proof.
 by rewrite subset_disjoint; apply: eq_disjoint_r => x; rewrite !inE /= negbK.
 Qed.
 
-Lemma disjoint_trans A B C :
+Lemma disjointFr A B x : [disjoint A & B] -> x \in A -> x \in B = false.
+Proof. by move/pred0P/(_ x) => /=; case (x \in A). Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:852]:
```suggestion
Proof. by move/pred0P/(_ x) => /=; case: (x \in A). Qed.
```

File: mathcomp/ssreflect/fintype.v [hunk 2]
```diff
@@ -848,10 +848,25 @@ Proof.
...
    A \subset B -> [disjoint B & C] -> [disjoint A & C].
 Proof. by rewrite 2!disjoint_subset; apply: subset_trans. Qed.
 
+Lemma disjointWr A B C : A \subset B -> [disjoint C & B] -> [disjoint C & A].
+Proof. rewrite ![[disjoint C & _]]disjoint_sym. exact:disjointWl. Qed.
+
+Lemma disjointW A B C D :
+  A \subset B -> C \subset D -> [disjoint B & D] -> [disjoint A & C].
+Proof.
+by move => subAB subCD BD; apply/(disjointWl subAB)/(disjointWr subCD).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:867]:
```suggestion
by move=> subAB subCD BD; apply/(disjointWl subAB)/(disjointWr subCD).
```

**Review by CohenCyril — CHANGES_REQUESTED** [review]
LGTM except for the two 1-character fixes.

**Review by CohenCyril — APPROVED** [review]
LGTM now

**Comment by CohenCyril** [comment]
Please rebase

**Comment by CohenCyril** [comment]
@chdoc I will merge after the CI passes. After than could you open an issue for 1.13.0 to remove the deprecated symbol?
